US07662771B2
5-[5-(5-chloro-2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester
Add 1,4-phenylenediisocyanate (8.41 g, 52.5 mmol) to a stirred solution of 4-chloro-2-ethynyl-1-methoxy-benzene (4.0 g, 30.3 mmol) and 6-nitro-hexanoic acid ethyl ester (8.6 g, 45.4 mmol) in toluene (300 mL, anhydrous) and stir at room temperature under N2. Add triethylamine (7.3 mL, 52.5 mmol) and heat to reflux under N2 overnight. Filter mixture through a pad of Celite® and rinse with toluene. Concentrate to get 6.6 g of a orange oil. Adsorb on SiO2 and purify the residue by flash chromatography on silica gel eluting with 0-40% EtOAc/hexanes to afford the title compound (4.51 g, 76%). MS (IS) 338 (M+1)+.

reactant | 1,4-phenylenediisocyanate | 52.5 mmol, 8.41 g | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 4-chloro-2-ethynyl-1-methoxy-benzene | 30.3 mmol, 4.0 g | ClC1=CC(=C(C=C1)OC)C#C | C9H7ClO
reactant | 6-nitro-hexanoic acid ethyl ester | 45.4 mmol, 8.6 g | C(C)OC(CCCCC[N+](=O)[O-])=O | C8H15NO4
reactant | triethylamine | 52.5 mmol, 7.3 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[5-(5-chloro-2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 6.6 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC(=C1)Cl)OC)=O | C17H20ClNO4
